US08541421B2
N-(2-Cyano-5-methylphenylcarbamothioyl)benzamide
Prepared as in Example 1a from 2-amino-4-methylbenzonitrile and benzoyl isothiocyanate as a pale-yellow powder. 1H NMR (400 MHz, DMSO-d6) δ7.32 (d, J=8.0 Hz, 1H), 7.51-7.58 (m, 3H), 7.67 (t, J=7.8 Hz, 1H), 7.78 (d, J=8.0 Hz, 1H), 7.98-8.01 (m, 2H), 11.88 (s, 1H), 12.49 (s, 1H). MS 296 (MH+).

reactant | 2-amino-4-methylbenzonitrile | NC1=C(C#N)C=CC(=C1)C | C8H8N2
reactant | benzoyl isothiocyanate | C(C1=CC=CC=C1)(=O)N=C=S | C8H5NOS
product | N-(2-Cyano-5-methylphenylcarbamothioyl)benzamide | C(#N)C1=C(C=C(C=C1)C)NC(=S)NC(C1=CC=CC=C1)=O | C16H13N3OS
